*** Extracted spice netlist generated from MAX ***

.SUBCKT MMI_RPTRF in out
C_1 out gnd 9.65265fF
C_2 in gnd 5.93581fF
C_3 vdd gnd 6.1046fF
C_4 gnd gnd 5.52779fF
Mp_1 out in vdd vdd p W=2.455U L=0.18U AD=0.748775P PD=3.47417U AS=0.66285P 
+ PS=2.995U
Mp_2 vdd in out vdd p W=2.455U L=0.18U AD=0.66285P PD=2.995U AS=0.748775P 
+ PS=3.47417U
Mp_3 out in vdd vdd p W=2.455U L=0.18U AD=0.748775P PD=3.47417U AS=0.66285P 
+ PS=2.995U
Mp_4 vdd in out vdd p W=2.455U L=0.18U AD=0.66285P PD=2.995U AS=0.748775P 
+ PS=3.47417U
Mp_5 out in vdd vdd p W=2.455U L=0.18U AD=0.748775P PD=3.47417U AS=0.66285P 
+ PS=2.995U
Mp_6 vdd in out vdd p W=2.455U L=0.18U AD=0.66285P PD=2.995U AS=0.748775P 
+ PS=3.47417U
Mp_7 out in vdd vdd p W=2.455U L=0.18U AD=0.748775P PD=3.47417U AS=0.66285P 
+ PS=2.995U
Mp_8 vdd in out vdd p W=2.455U L=0.18U AD=0.66285P PD=2.995U AS=0.748775P 
+ PS=3.47417U
Mp_9 out in vdd vdd p W=2.455U L=0.18U AD=0.748775P PD=3.47417U AS=0.66285P 
+ PS=2.995U
Mp_10 vdd in out vdd p W=2.455U L=0.18U AD=0.66285P PD=2.995U AS=0.748775P 
+ PS=3.47417U
Mp_11 out in vdd vdd p W=2.455U L=0.18U AD=0.748775P PD=3.47417U 
+ AS=0.66285P PS=2.995U
Mp_12 vdd in out vdd p W=2.455U L=0.18U AD=0.66285P PD=2.995U AS=0.748775P 
+ PS=3.47417U
Mn_1 out in gnd gnd n W=1.84U L=0.18U AD=0.5934P PD=2.945U AS=0.69115P 
+ PS=3.51125U
Mn_2 gnd in out gnd n W=1.84U L=0.18U AD=0.69115P PD=3.51125U AS=0.5934P 
+ PS=2.945U
Mn_3 out in gnd gnd n W=1.84U L=0.18U AD=0.5934P PD=2.945U AS=0.69115P 
+ PS=3.51125U
Mn_4 gnd in out gnd n W=1.84U L=0.18U AD=0.69115P PD=3.51125U AS=0.5934P 
+ PS=2.945U
Mn_5 out in gnd gnd n W=1.84U L=0.18U AD=0.5934P PD=2.945U AS=0.69115P 
+ PS=3.51125U
Mn_6 gnd in out gnd n W=1.84U L=0.18U AD=0.69115P PD=3.51125U AS=0.5934P 
+ PS=2.945U
Mn_7 out in gnd gnd n W=1.84U L=0.18U AD=0.5934P PD=2.945U AS=0.69115P 
+ PS=3.51125U
Mn_8 gnd in out gnd n W=1.84U L=0.18U AD=0.69115P PD=3.51125U AS=0.5934P 
+ PS=2.945U
.ENDS	$ MMI_RPTRF

.GLOBAL gnd vdd

