*** Extracted spice netlist generated from MAX ***

.SUBCKT MMI_SFFMB clk d0 d1 q s_en s_in s_out sel
C_1 net_1 gnd 4.58064fF
C_2 s_en gnd 7.56467fF
C_3 vdd gnd 9.86195fF
C_4 sel gnd 2.80698fF
C_5 net_2 gnd 3.22864fF
C_6 net_3 gnd 1.98002fF
C_7 d0 gnd 1.57357fF
C_8 net_5 gnd 4.63885fF
C_9 d1 gnd 1.10138fF
C_10 s_in gnd 1.23158fF
C_11 clk gnd 4.25103fF
C_12 net_8 gnd 3.64135fF
C_13 net_9 gnd 4.72077fF
C_14 net_10 gnd 2.38794fF
C_15 net_11 gnd 3.38151fF
C_16 net_12 gnd 5.74053fF
C_17 s_out gnd 1.18735fF
C_18 q gnd 1.23064fF
C_19 gnd gnd 8.67674fF
C_20 net_16 gnd 0.81658fF
Mp_1 net_1 s_en vdd vdd p W=0.92U L=0.18U AD=0.4416P PD=2.8U AS=0.319639P 
+ PS=2.07611U
Mp_2 vdd sel net_2 vdd p W=0.92U L=0.18U AD=0.319639P PD=2.07611U 
+ AS=0.4416P PS=2.8U
Mp_3 net_3 s_en vdd vdd p W=1.84U L=0.18U AD=0.69P PD=3.51U AS=0.639278P 
+ PS=4.15221U
Mp_4 vdd s_en net_3 vdd p W=1.84U L=0.18U AD=0.639278P PD=4.15221U AS=0.69P 
+ PS=3.51U
Mp_5 net_3 sel net_4 vdd p W=1.84U L=0.18U AD=0.69P PD=3.51U AS=0.3588P 
+ PS=2.23U
Mp_6 net_4 d0 net_5 vdd p W=1.84U L=0.18U AD=0.3588P PD=2.23U AS=0.7544P 
+ PS=4.06667U
Mp_7 net_3 net_2 net_6 vdd p W=1.84U L=0.18U AD=0.69P PD=3.51U AS=0.3588P 
+ PS=2.23U
Mp_8 net_6 d1 net_5 vdd p W=1.84U L=0.18U AD=0.3588P PD=2.23U AS=0.7544P 
+ PS=4.06667U
Mp_9 vdd s_in net_7 vdd p W=0.92U L=0.18U AD=0.319639P PD=2.07611U 
+ AS=0.1794P PS=1.31U
Mp_10 net_7 net_1 net_5 vdd p W=0.92U L=0.18U AD=0.1794P PD=1.31U 
+ AS=0.3772P PS=2.03333U
Mp_11 net_5 clk net_8 vdd p W=0.92U L=0.18U AD=0.3772P PD=2.03333U 
+ AS=0.4416P PS=3.15821U
Mp_12 net_9 clk vdd vdd p W=0.92U L=0.18U AD=0.4416P PD=2.8U AS=0.319639P 
+ PS=2.07611U
Mp_13 vdd net_8 net_10 vdd p W=0.92U L=0.18U AD=0.319639P PD=2.07611U 
+ AS=0.2484P PS=1.46U
Mp_14 net_10 net_9 net_11 vdd p W=0.92U L=0.18U AD=0.2484P PD=1.46U 
+ AS=0.4416P PS=3.15821U
Mp_15 net_12 net_11 vdd vdd p W=0.92U L=0.18U AD=0.4416P PD=2.8U 
+ AS=0.319639P PS=2.07611U
Mp_16 vdd net_12 s_out vdd p W=0.84U L=0.18U AD=0.291844P PD=1.89558U 
+ AS=0.2268P PS=1.38U
Mp_17 s_out s_en vdd vdd p W=0.84U L=0.18U AD=0.2268P PD=1.38U AS=0.291844P 
+ PS=1.89558U
Mp_18 vdd net_12 net_13 vdd p W=0.42U L=0.18U AD=0.145922P PD=0.947788U 
+ AS=0.0819P PS=0.81U
Mp_19 net_13 clk net_11 vdd p W=0.42U L=0.18U AD=0.0819P PD=0.81U 
+ AS=0.2016P PS=1.44179U
Mp_20 vdd net_12 q vdd p W=1.84U L=0.18U AD=0.639278P PD=4.15221U 
+ AS=0.8832P PS=4.64U
Mp_21 vdd net_10 net_14 vdd p W=0.42U L=0.18U AD=0.145922P PD=0.947788U 
+ AS=0.0819P PS=0.81U
Mp_22 net_14 net_9 net_8 vdd p W=0.42U L=0.18U AD=0.0819P PD=0.81U 
+ AS=0.2016P PS=1.44179U
Mn_1 net_1 s_en gnd gnd n W=0.46U L=0.18U AD=0.2208P PD=1.88U AS=0.163562P 
+ PS=1.26875U
Mn_2 gnd sel net_2 gnd n W=0.46U L=0.18U AD=0.163562P PD=1.26875U 
+ AS=0.2208P PS=1.88U
Mn_3 net_5 d0 net_15 gnd n W=0.92U L=0.18U AD=0.382476P PD=2.89529U 
+ AS=0.1794P PS=1.31U
Mn_4 net_15 net_2 net_16 gnd n W=0.92U L=0.18U AD=0.1794P PD=1.31U 
+ AS=0.25915P PS=1.995U
Mn_5 s_out net_12 net_17 gnd n W=0.84U L=0.18U AD=0.4032P PD=2.64U 
+ AS=0.1638P PS=1.23U
Mn_6 net_17 s_en gnd gnd n W=0.84U L=0.18U AD=0.1638P PD=1.23U AS=0.298679P 
+ PS=2.31685U
Mn_7 net_16 net_1 gnd gnd n W=0.92U L=0.18U AD=0.25915P PD=1.995U 
+ AS=0.327125P PS=2.5375U
Mn_8 gnd net_1 net_16 gnd n W=0.92U L=0.18U AD=0.327125P PD=2.5375U 
+ AS=0.25915P PS=1.995U
Mn_9 net_16 sel net_18 gnd n W=0.92U L=0.18U AD=0.25915P PD=1.995U 
+ AS=0.1794P PS=1.31U
Mn_10 net_18 d1 net_5 gnd n W=0.92U L=0.18U AD=0.1794P PD=1.31U 
+ AS=0.382476P PS=2.89529U
Mn_11 net_5 s_en net_19 gnd n W=0.46U L=0.18U AD=0.191238P PD=1.44765U 
+ AS=0.0897P PS=0.85U
Mn_12 net_19 s_in gnd gnd n W=0.46U L=0.18U AD=0.0897P PD=0.85U 
+ AS=0.163563P PS=1.26875U
Mn_13 gnd net_12 q gnd n W=0.92U L=0.18U AD=0.327125P PD=2.5375U AS=0.4416P 
+ PS=2.8U
Mn_14 net_5 net_9 net_8 gnd n W=0.42U L=0.18U AD=0.174609P PD=1.32176U 
+ AS=0.2016P PS=1.8U
Mn_15 net_9 clk gnd gnd n W=0.46U L=0.18U AD=0.2208P PD=1.88U AS=0.163562P 
+ PS=1.26875U
Mn_16 net_8 clk net_20 gnd n W=0.42U L=0.18U AD=0.2016P PD=1.8U AS=0.0819P 
+ PS=0.81U
Mn_17 net_20 net_10 gnd gnd n W=0.42U L=0.18U AD=0.0819P PD=0.81U 
+ AS=0.14934P PS=1.15842U
Mn_18 gnd net_8 net_10 gnd n W=0.46U L=0.18U AD=0.163563P PD=1.26875U 
+ AS=0.137373P PS=1.58909U
Mn_19 net_10 clk net_11 gnd n W=0.42U L=0.18U AD=0.125427P PD=1.45091U 
+ AS=0.2016P PS=1.8U
Mn_20 gnd net_11 net_12 gnd n W=0.62U L=0.18U AD=0.220454P PD=1.71005U 
+ AS=0.2976P PS=2.2U
Mn_21 net_11 net_9 net_21 gnd n W=0.42U L=0.18U AD=0.2016P PD=1.8U 
+ AS=0.0819P PS=0.81U
Mn_22 net_21 net_12 gnd gnd n W=0.42U L=0.18U AD=0.0819P PD=0.81U 
+ AS=0.14934P PS=1.15842U
.ENDS	$ MMI_SFFMB

.GLOBAL gnd vdd

